US07264790B2
Ethanol (95%, 30 mL) was added with of ethyl 7-(2,4,6-triiodophenoxy)heptanoate (4.0 g) and the mixture was refluxed for dissolution, and the solution was added with sodium hydroxide (0.5 g) and further refluxed for 1.5 hours. The crystals obtained were separated by filtration, washed with ethanol and added with dichloromethane and 1 N hydrochloric acid to conduct extraction twice with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was removed. The resulting residue was purified by silica gel column chromatography to obtain 7-(2,4,6-triiodophenoxy)heptanoic acid (3.4 g, yield: 90%).

reactant | ethyl 7-(2,4,6-triiodophenoxy)heptanoate | 4.0 g | IC1=C(OCCCCCCC(=O)OCC)C(=CC(=C1)I)I | C15H19I3O3
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
solvent | Ethanol | 30 mL | C(C)O | C2H6O
product | 7-(2,4,6-triiodophenoxy)heptanoic acid | 3.4 g, yield: 90% | IC1=C(OCCCCCCC(=O)O)C(=CC(=C1)I)I | C13H15I3O3
